* Extracted by KLayout with SG13G2 LVS runset on : 10/01/2026 00:15

.SUBCKT inv VSS VDD VOUT VIN
M$1 VSS VIN VOUT VSS sg13_lv_nmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
M$2 VDD VIN VOUT VDD sg13_lv_pmos L=0.13u W=0.15u AS=0.1005p AD=0.1005p
+ PS=1.34u PD=1.34u
.ENDS inv
